US07300951B2
To sodium cyanide (0.425 g, 8.65 mmol) and ammonium carbonate (0.9 g, 11.54 mmol) in H2O (30 mL) was added 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)butyraldehyde (0.6 g, 2.88 mmol) in ethanol (30 mL). The black reaction mixture was heated to 90° C. After 1 h, the mixture became homogeneous and was stirred at 90° C. for 18 h. After cooling to 25° C., about 40 mL of solvent was removed in vacuo. Concentrated HCl (4 mL) was added to acidify the mixture to pH 1–2 and a precipitate formed. It was filtered. The mother liquor was washed with EtOAc (3×50 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain 5-(3,3,3-trifluoro-1-(2,2,2-trifluoroethyl)propyl) imidazolidine-2,4-dione as a brown oil (1.01 g, 100%). Mass Spectrum (+ESI): 279, 280 (M+H)+.

reactant | sodium cyanide | 8.65 mmol, 0.425 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 11.54 mmol, 0.9 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)butyraldehyde | 2.88 mmol, 0.6 g | FC(CC(C=O)CC(F)(F)F)(F)F | C6H6F6O
reactant | H2O | 30 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(3,3,3-trifluoro-1-(2,2,2-trifluoroethyl)propyl) imidazolidine-2,4-dione | 1.01 g, 100% | FC(CC(CC(F)(F)F)C1C(NC(N1)=O)=O)(F)F | C8H8F6N2O2
